US08748613B2
Preparation of 2-(4-chlorobutanamido)-2-phenylacetic acid (I77)
2-Amino-2-phenylacetic acid (1.00 g, 6.62 mmol) and TEA (2.77 ml, 19.8 mmol) were dissolved in a mixture of dioxane (13.2 ml) and water (13.2 ml). The mixture was cooled at 0° C. with an ice-bath and 4-chlorobutanoyl chloride (814 μl, 7.28 mmol) was added dropwise. The mixture was stirred at the same temperature for 1 hour and then dioxane was evaporated. The aqueous solution was acidified with 1N HCl and then was extracted three times with EtOAc (20 ml×3). The organic phase was dried (Na2SO4) and evaporated. The crude pale yellow oil was purified by flash chromatography (DCM/MeOH=9/1) and the collected compound was triturated with Et2O (about 15 ml) to obtain the title compound (658 mg, 38.9% yield) as a white solid.

reactant | 2-Amino-2-phenylacetic acid | 6.62 mmol, 1.00 g | NC(C(=O)O)C1=CC=CC=C1 | C8H9NO2
reactant | 4-chlorobutanoyl chloride | 7.28 mmol, 814 μl | ClCCCC(=O)Cl | C4H6Cl2O
solvent | dioxane | 13.2 ml | O1CCOCC1 | C4H8O2
solvent | water | 13.2 ml | O | H2O
product | 2-(4-chlorobutanamido)-2-phenylacetic acid | 658 mg, 38.9% yield | ClCCCC(=O)NC(C(=O)O)C1=CC=CC=C1 | C12H14ClNO3
